### PR TITLE
DerivativeBound and BorelCaratheodoryDeriv

### PR DESCRIPTION
**Pull request by prestontranbarger**

### CODE REVIEW

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 1]
```diff
@@ -26,15 +26,169 @@ blueprint_comment /--
 
 
 blueprint_comment /--
-\begin{theorem}[BorelCaratheodoryDeriv]\label{BorelCaratheodoryDeriv}
+\begin{lemma}[cauchy_formula_deriv]\label{cauchy_formula_deriv}\lean{cauchy_formula_deriv}\leanok
+Let $f$ be analytic on $|z|\leq R$. For any $z$ with $|z|\leq r$ and any $r'$ with $0 < r < r' < R$ we have
+$$f'(z)=\frac{1}{2\pi i}\oint_{|w|=r'}\frac{f(w)}{(w-z)^2}\,dw=\frac{1}{2\pi }\int_0^{2\pi}\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\,dt.$$
+-/
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: This throws a LaTeX error because `_` characters are not allowed in titles.

```suggestion
\begin{lemma}[cauchy-formula-deriv]\label{cauchy_formula_deriv}\lean{cauchy_formula_deriv}\leanok
Let $f$ be analytic on $|z|\leq R$. For any $z$ with $|z|\leq r$ and any $r'$ with $0 < r < r' < R$ we have
$$f'(z)=\frac{1}{2\pi i}\oint_{|w|=r'}\frac{f(w)}{(w-z)^2}\,dw=\frac{1}{2\pi }\int_0^{2\pi}\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\,dt.$$
-/
```

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 2]
```diff
@@ -26,15 +26,169 @@ blueprint_comment /--
...
 blueprint_comment /--
-\begin{theorem}[BorelCaratheodoryDeriv]\label{BorelCaratheodoryDeriv}
+\begin{lemma}[cauchy-formula-deriv]\label{cauchy_formula_deriv}\lean{cauchy_formula_deriv}\leanok
+Let $f$ be analytic on $|z|\leq R$. For any $z$ with $|z|\leq r$ and any $r'$ with $0 < r < r' < R$ we have
+$$f'(z)=\frac{1}{2\pi i}\oint_{|w|=r'}\frac{f(w)}{(w-z)^2}\,dw=\frac{1}{2\pi }\int_0^{2\pi}\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\,dt.$$
+-/
+
+lemma cauchy_formula_deriv {f : ℂ → ℂ} {R r r' : ℝ}
+    (hf_domain : ∃ U, IsOpen U ∧ Metric.closedBall 0 R ⊆ U ∧ DifferentiableOn ℂ f U)
+    (pos_r : 0 < r)
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: Is `pos_r` used?

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 3]
```diff
@@ -25,21 +25,159 @@ blueprint_comment /--
...
+        calc U = Metric.ball 0 R := rfl
+            _ ⊆ Metric.closedBall 0 R := Metric.ball_subset_closedBall
+            _ ⊆ U' := h_subset
+    have cauchy_eq := Complex.two_pi_I_inv_smul_circleIntegral_sub_sq_inv_smul_of_differentiable
+        Metric.isOpen_ball hc_subset hf_on_U hz_in_ball
+    rw [← cauchy_eq]
+    congr 2
+    ·   simp only [one_div]
+    ·   ext w
+        rw [← inv_pow]
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: This proof can be simplified as follows (already tested locally):

```suggestion
lemma cauchy_formula_deriv {f : ℂ → ℂ} {R r r' : ℝ}
    (hf_domain : ∃ U, IsOpen U ∧ Metric.closedBall 0 R ⊆ U ∧ DifferentiableOn ℂ f U)
    (r_lt_r' : r < r') (r'_lt_R : r' < R) {z : ℂ} (hz : z ∈ Metric.closedBall 0 r) :
    deriv f z = (1 / (2 * Real.pi * I)) • ∮ w in C(0, r'), (w - z)⁻¹ ^ 2 • f w := by
  obtain ⟨_, _, h_subset, hf_diff⟩ := hf_domain
  have hz_in_ball : z ∈ Metric.ball 0 r' :=
    Metric.mem_ball.mpr <| (Metric.mem_closedBall.mp hz).trans_lt r_lt_r'
  have hf_on_ball : DifferentiableOn ℂ f (Metric.ball 0 R) :=
    hf_diff.mono <| Metric.ball_subset_closedBall.trans h_subset
  simp [← Complex.two_pi_I_inv_smul_circleIntegral_sub_sq_inv_smul_of_differentiable
      Metric.isOpen_ball (Metric.closedBall_subset_ball r'_lt_R) hf_on_ball hz_in_ball]
```

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 4]
```diff
@@ -25,21 +25,159 @@ blueprint_comment /--
...
+            ·   have : r' - r ≤ ‖(r' : ℂ) * cexp (I * (θ : ℂ))‖ - ‖z‖ := by
+                    refine sub_le_sub ?_ (by exact mem_closedBall_zero_iff.mp z_in_r)
+                    simp only [Complex.norm_mul, norm_real, norm_eq_abs,
+                        norm_exp_I_mul_ofReal, mul_one]
+                    exact le_abs_self r'
+                exact le_trans this (by exact norm_sub_norm_le (↑r' * cexp (I * ↑θ)) z)
+            ·   exact le_trans (diff_neg) (by exact norm_nonneg (↑r' * cexp (I * ↑θ) - z))
+    ·   exact norm_nonneg (f (↑r' * cexp (I * ↑θ)))
+    ·   rw[inv_nonneg]
+        exact sq_nonneg ‖↑r' * cexp (I * ↑θ) - z‖
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: This proof can be simplified as follows (already tested locally): 

```suggestion
lemma DerivativeBound {R M r r' : ℝ} {z : ℂ} {f : ℂ → ℂ}
    (Mpos : 0 < M) (analytic_f : AnalyticOn ℂ f (Metric.closedBall 0 R))
    (f_zero_at_zero : f 0 = 0)
    (hf_domain : ∃ U, IsOpen U ∧ Metric.closedBall 0 R ⊆ U ∧ DifferentiableOn ℂ f U)
    (re_f_le_M : ∀ z ∈ Metric.closedBall 0 R, (f z).re ≤ M)
    (pos_r : 0 < r) (z_in_r : z ∈ Metric.closedBall 0 r) (r_lt_r' : r < r') (r'_lt_R : r' < R) :
    ‖(deriv f) z‖ ≤ 2 * M * (r') ^ 2 / ((R - r') * (r' - r) ^ 2) := by
  have cauchy_param : deriv f z = (1 / (2 * Real.pi * I)) *
      ∫ θ in (0 : ℝ)..(2 * Real.pi), I * r' * cexp (I * θ) * (r' * cexp (I * θ) - z)⁻¹ ^ 2 *
        f (r' * cexp (I * θ)) := by
    rw [cauchy_formula_deriv hf_domain r_lt_r' r'_lt_R z_in_r, smul_eq_mul]
    unfold circleIntegral circleMap
    simp only [one_div, mul_inv_rev, inv_I, neg_mul, zero_add, deriv_const_mul_field',
      inv_pow, smul_eq_mul, neg_inj, mul_eq_mul_left_iff, _root_.mul_eq_zero,
      I_ne_zero, inv_eq_zero, ofReal_eq_zero, pi_ne_zero, OfNat.ofNat_ne_zero, or_self, or_false]
    congr 1
    ext θ
    rw [deriv_cexp, deriv_mul_const]
    · simp only [_root_.deriv_ofReal, one_mul]; ring_nf
    · exact differentiableAt_ofReal θ
    · exact (differentiableAt_ofReal θ).mul_const I
  rw [cauchy_param]
  simp only [one_div, mul_inv_rev, inv_I, neg_mul, inv_pow, norm_neg, Complex.norm_mul, norm_I,
    norm_inv, norm_real, norm_eq_abs, Complex.norm_ofNat, one_mul]
  rw [abs_of_pos pi_pos, mul_assoc, inv_mul_le_iff₀ pi_pos, inv_mul_le_iff₀ two_pos, ← mul_assoc]
  nth_rewrite 3 [mul_comm]
  nth_rewrite 2 [← abs_of_pos two_pi_pos, ← sub_zero (2 * π)]
  refine intervalIntegral.norm_integral_le_of_norm_le_const fun θ _ ↦ ?_
  simp only [Complex.norm_mul, norm_I, norm_real, norm_eq_abs, one_mul, norm_exp_I_mul_ofReal,
    mul_one, norm_inv, norm_pow, abs_of_pos <| pos_r.trans r_lt_r']
  rw [div_mul_eq_div_mul_one_div, pow_two r', ← mul_assoc]
  nth_rewrite 8 [mul_comm]
  rw [← mul_div, mul_right_comm]
  have hz_norm : ‖z‖ ≤ r := mem_closedBall_zero_iff.mp z_in_r
  refine mul_le_mul₃ rfl.le ?_ ?_ (norm_nonneg _) (by grind) (inv_nonneg.mpr (sq_nonneg _))
  · exact borelCaratheodory_closedBall (by grind) analytic_f f_zero_at_zero Mpos re_f_le_M
      r'_lt_R (mem_closedBall_zero_iff.mpr (by simp [abs_of_pos <| pos_r.trans r_lt_r']))
  · rw [← inv_eq_one_div]
    refine inv_anti₀ (sq_pos_of_pos (by grind)) (sq_le_sq' ?_ ?_)
    · calc -(‖(r' : ℂ) * cexp (I * θ) - z‖) ≤ 0 := neg_nonpos.mpr (norm_nonneg _)
        _ ≤ r' - r := by grind
    · calc r' - r ≤ |r'| - ‖z‖ := sub_le_sub (le_abs_self _) hz_norm
        _ = ‖(r' : ℂ) * cexp (I * θ)‖ - ‖z‖ := by simp [abs_of_pos <| pos_r.trans r_lt_r']
        _ ≤ ‖r' * cexp (I * θ) - z‖ := norm_sub_norm_le _ _
```

**Review by pitmonticone — APPROVED** [review]

**Comment by ajirving** [comment]
Maybe you should remove the DerivativeBound.lean file to avoid confusion with that version of the result.

Since this is already approved you maybe don't want to make any more changes but I wonder if the DerivativeBound proof would be better using calc where individual steps can be proved by ring or field rather than things like ``nth_rewrite 8 [mul_comm]``.

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 5]
```diff
@@ -25,21 +25,125 @@ blueprint_comment /--
...
+    $$f'(z)=\frac{1}{2\pi i}\oint_{|w|=r'}\frac{f(w)}{(w-z)^2}\,dw=\frac{1}{2\pi }\int_0^{2\pi}\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\,dt.$$
+    Thus,
+    \begin{equation}\label{pickupPoint1}
+        |f'(z)|=\left|\frac{1}{2\pi}\int_0^{2\pi}\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\,dt\right|\leq\frac{1}{2\pi}\int_0^{2\pi}\left|\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\right|\,dt.
+    \end{equation}
+    Now applying Theorem \ref{borelCaratheodory_closedBall}, and noting that $r'-r\leq|r'e^{it}-z|$, we have that
+    $$\left|\frac{r'e^{it}\,f(r'e^{it})}{(r'e^{it}-z)^2}\right|\leq\frac{2M(r')^2}{(R-r')(r'-r)^2}.$$
+    Substituting this into Equation (\ref{pickupPoint1}) and evaluating the integral completes the proof. -/)
+  (latexEnv := "lemma")]
+
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: Maybe remove this empty line (also above)

```suggestion
```

**Review by pitmonticone — APPROVED** [review]
LGTM! Thanks!

**Review by pitmonticone — APPROVED** [review]
